US05866684
A solution of 6.8 g (6.75 mmol) of N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester in 200 ml of dimethylformamide was hydrogenated over 600 mg of 10% palladium/carbon for 1 hour. The catalyst was removed by filtration and the filtrate was evaporated to give 15 g of crude product which was chromatographed on silica gel using 10-15% methanol in dichloromethane for the elution to give 6 g of N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine as a white solid of melting point 235°-236° C.; MS: m/e 918.4 [M+H]+, m/e 940.3 [M+Na]+.

reactant | N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester | 6.75 mmol, 6.8 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)CCC(OC(C)(C)C)=O)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C54H81N5O13
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | palladium/carbon | 600 mg | [Pd] | Pd
product | N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine | 6 g | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C47H75N5O13
